US06281357B1
(a) (R)-1-Allyl-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole
To a stirred solution of (R)-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole (22.5 g, 76.8 mmol) in tetrahydroflran (132 ml) at 0° C. under a nitrogen atmosphere was added potassium tert-butoxide (9.47 g, 84.4 mmol) portionwise, maintaining the temperature below 5° C. Upon completion of the addition, the dark brown slurry was stirred at 0-5° C. for 30 min before allyl bromide (7.3 ml, 84.3 mmol) was added dropwise maintaining the temperature below 5° C. The brown solution was then warmed to ambient temperature over a 1 hr period before being quenched into water (100 ml). The mixture was then extracted with ethyl acetate (3×25 ml) and the combined organic extracts were evaporated in vacuo to give a brown oil. This was purified by flash column chromatography (ethyl acetate:hexane:diethylamine 1:1:0.1 as eluant) to yield the subtitle compound (19.94 g, 78%) as a golden oil.

reactant | (R)-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole | 76.8 mmol, 22.5 g | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | potassium tert-butoxide | 84.4 mmol, 9.47 g | CC(C)([O-])C.[K+]
reactant | allyl bromide | 84.3 mmol, 7.3 ml | C(C=C)Br | C3H5Br
product | (R)-1-Allyl-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole | 19.94 g, 78% | C(C=C)N1C=C(C2=CC(=CC=C12)Br)C[C@@H]1N(CCC1)C | C17H21BrN2
